US04703053
A mixture of 5.3 g (0.019 mole) of 3-(acetylamino)N-1H-tetrazol-5-yl-2-benzofurancarboxamide in 50 ml of ethanol plus 50 ml of concentrated (12.0 M) hydrochloric acid is stirred at reflux for two hours. The reaction mixture is cooled in ice to precipitate 3-amino-N-1H-tetrazol-5-yl-2-benzofurancarboxamide. The precipitate is filtered, washed with 50% aqueous ethanol, and recrystallized from aqueous 2-methoxyethanol to yield 2.4 g (53% yield) of the analytically pure 3-amino-N-1H-tetrazol-5-yl-2-benzofurancarboxamide, mp 275° C.-dec.

reactant | 3-(acetylamino)N-1H-tetrazol-5-yl-2-benzofurancarboxamide | 0.019 mole, 5.3 g | C(C)(=O)NC1=C(OC2=C1C=CC=C2)C(=O)NC2=NN=NN2 | C12H10N6O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-amino-N-1H-tetrazol-5-yl-2-benzofurancarboxamide | 53% yield | NC1=C(OC2=C1C=CC=C2)C(=O)NC2=NN=NN2 | C10H8N6O2
